US05936051
2) Preparation of 2,4-bistrifluoromethylbenzylcyclopentadienyl lithium
3.5 g of 2,4-bistrifluoromethylbenzylcyclopentadiene and 30 ml of hexane are charged, in an argon atmosphere, into a tailed test-tube equipped with magnetic stirring. 6 ml of a 2.5 M solution of butyllithium in hexane are then added. There is an immediate reaction with the development of heat and the formation of a yellow precipitate which is washed several times with hexane by decanting and finally dried. 3.0 g of the desired salt are obtained with a yield of 85%.

reactant | 2,4-bistrifluoromethylbenzylcyclopentadiene | 3.5 g | FC(C1=C(CC2=CC=CC2)C=CC(=C1)C(F)(F)F)(F)F | C14H10F6
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 30 ml | CCCCCC | C6H14
product | 2,4-bistrifluoromethylbenzylcyclopentadienyl lithium | 3.0 g, yield of 85% | FC(C1=C(CC2(C=CC=C2)[Li])C=CC(=C1)C(F)(F)F)(F)F | InChI=1S/C14H9F6.Li/c15-13(16,17)11-6-5-10(7-9-3-1-2-4-9)12(8-11)14(18,19)20;/h1-6,8H,7H2;
